US05968928
9-Diethylaminoacetyl-6-nitro-1,4,7,8,9,10-hexahydro-pyrido[3,4-f]quinoxaline-2,3-dione
A mixture of N,N-diethylglycine hydrochloride (96 mg, 0.57 mmol) and carbonyldiimidazole (92 mg, 0.57 mmol) in THF (5 mL) were refluxed under a nitrogen atmosphere for 15 min. With the bath temperature at 70° C., DMF (7 mL) and 6-nitro-pyridoquinoxalinedione (0.1 g, 0.38 mmol) were added, and finally triethylamine (265 μL) was added and the reaction heated for 14 h at 80° C. The solvent was removed and the residue triturated with water, collected by filtration and washed with diethyl ether. An orange brown solid (104 mg) was obtained in 73% yield, mp 285-290° C. (dec); m/e M+1 376, nmR, IR.

reactant | N,N-diethylglycine hydrochloride | 0.57 mmol, 96 mg | Cl.C(C)N(CC(=O)O)CC
reactant | carbonyldiimidazole | 0.57 mmol, 92 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | DMF | 7 mL | CN(C)C=O | C3H7NO
reactant | 6-nitro-pyridoquinoxalinedione | 0.38 mmol, 0.1 g | [N+](=O)([O-])C1=CC2=NC(C(N=C2C2=C1N=CC=C2)=O)=O | C11H4N4O4
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | triethylamine | 265 μL | C(C)N(CC)CC | C6H15N
product | 9-Diethylaminoacetyl-6-nitro-1,4,7,8,9,10-hexahydro-pyrido[3,4-f]quinoxaline-2,3-dione | 104 mg, 73% yield | C(C)N(CC)CC(=O)N1CC=2C=3NC(C(NC3C=C(C2CC1)[N+](=O)[O-])=O)=O | C17H21N5O5
